US04742069
A solution of 1.6 g of sodium hydroxide in 20 ml of water was added dropwise at 5°-12° with vigorous stirring to a solution of 3.5 g of 2,3-dimethyl-1,2-thiazin-5(6H)-one 1,1-dioxide, 6.8 g of tetrabutylammonium hydrogen sulfate and 1.9 ml (0.03 mol) of methyl iodide in 40 ml of methylene chloride. The mixture was thereafter stirred vigorously at room temperature for 15 minutes. The organic phase was separated, the aqueous phase was extracted twice with 15 ml of methylene chloride and the combined organic phases were washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The oily residue was chromatographed on 300 g of silica gel with chloroform/n-heptane/ethanol (10:10:1) as the elution agent. The uniform fractions were combined and evaporated. After triturating the residue with ether there were obtained 1.8 g of 2,3,6-trimethyl-2H-1,2-thiazin-5(6H)-one 1,1-dioxide in the form of colorless crystals, m.p. 73°-75°.

reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | 2,3-dimethyl-1,2-thiazin-5(6H)-one 1,1-dioxide | 3.5 g | CN1S(CC(C=C1C)=O)(=O)=O | C6H9NO3S
reactant | methyl iodide | 0.03 mol, 1.9 ml | CI | CH3I
solvent | water | 20 ml | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 6.8 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2,3,6-trimethyl-2H-1,2-thiazin-5(6H)-one 1,1-dioxide | 1.8 g | CN1S(C(C(C=C1C)=O)C)(=O)=O | C7H11NO3S
